US06187945B1
p-Cyanobenzylamine (13.2 g), water (18 g), and methylene chloride (18 g) were mixed, and the mixture was stirred with cooling with ice. Acetic acid (18 g) was added to the mixture. Subsequently, a 20 wt % aqueous solution (51.8 g) of sodium nitrite was added dropwise to the mixture over a one hour period. The mixture was stirred at the same temperature for four hours. The reaction mixture was subjected to extraction with methylene chloride, and the organic solvent was concentrated. Water was added to the concentrated solution, and the residual organic solvent was removed through distillation, to thereby obtain 14.7 g of p-cyanobenzyl acetate (yield 84%). The purity of the product was 98%.

reactant | p-Cyanobenzylamine | 13.2 g | C(#N)C1=CC=C(CN)C=C1 | C8H8N2
reactant | water | 18 g | O | H2O
reactant | methylene chloride | 18 g | C(Cl)Cl | CH2Cl2
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | Acetic acid | 18 g | C(C)(=O)O | C2H4O2
product | p-cyanobenzyl acetate | 14.7 g, yield 84% | C(C)(=O)OCC1=CC=C(C=C1)C#N | C10H9NO2
